US08420855B2
Preparation of 3-amino-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2,6-dimethoxy-benzamide
A solution of N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2,6-dimethoxy-3-nitrobenzamide (200 mg, 0.4 mmol) (see Example I3) in ethanol (8 ml) charged with Pd/C 10% (64 mg, 0.06 mmol) was stirred under a hydrogen atmosphere for 16 hours. After filtration the mixture was concentrated. The residue was used without further purification.

reactant | N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2,6-dimethoxy-3-nitrobenzamide | 0.4 mmol, 200 mg | CC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(C1=C(C(=CC=C1OC)[N+](=O)[O-])OC)=O | C20H17F7N2O5
solvent | ethanol | 8 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.06 mmol, 64 mg | [Pd] | Pd
product | 3-amino-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2,6-dimethoxy-benzamide | NC=1C(=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C(=CC1)OC)OC | C20H19F7N2O3
